US09447035B2
Step 3: Preparation of (S)-2-[4-[[3,5-difluoro-4-[(S)-1-methoxycarbonyl-2-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5- yl]phenyl]ethylcarbamoyl]benzylamino]methyl]-2,6-difluorobenzoylamino]-3-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]propionic acid methyl ester:
To a flask containing (S)-2-[4-[[3,5-difluoro-4-[(S)-1-carboxy-2-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]ethylcarbamoyl]benzylamino]methyl]-2,6-difluorobenzoylamino]-3-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]propionic acid (560 mg, 0.59 mmol) was added methanol (50 mL) and TMSCI (398 mg, 460 mL, 3.66 mmol) and the reaction was stirred overnight. Reaction was diluted with EA (10 mL), DCM (140 mL) and was washed with aqueous NaHCO3 solution (water:saturated solution 50 mL:50 mL, 10 mL brine) and brine (100 mL). The organic layer was dried over MgSO4, filtered and concentrated yielding the title compound as a white solid and used directly as is. ES(+)-LRMS m/e calcd. for C50H49F4N7O10 (M+H)+ 984, obsd 984.

reactant | (S)-2-[4-[[3,5-difluoro-4-[(S)-1-carboxy-2-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]ethylcarbamoyl]benzylamino]methyl]-2,6-difluorobenzoylamino]-3-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]propionic acid | 0.59 mmol, 560 mg | FC=1C=C(CNCC2=CC(=C(C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)C=3C(N(C(N(C3C)C)=O)C)=O)C(=C2)F)F)C=C(C1C(N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)O)=O)F | C48H45F4N7O10
reactant | methanol | 50 mL | CO | CH4O
reactant | EA | 10 mL | CC(OCC)=O | C4H8O2
solvent | DCM | 140 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-[4-[[3,5-difluoro-4-[(S)-1-methoxycarbonyl-2-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5- yl]phenyl]ethylcarbamoyl]benzylamino]methyl]-2,6-difluorobenzoylamino]-3-[4-[1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl]phenyl]propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(C1=C(C=C(C=C1F)CNCC1=CC(=C(C(=C1)F)C(N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)OC)=O)F)F)=O)=O | C50H49F4N7O10
